Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Polytrauma s/p cyclist vs ___
 
Major Surgical or Invasive Procedure:
___: Open reduction and internal fixation of proximal
shaft radius and ulna fractures of the left upper extremity.

 
History of Present Illness:
___ year old male amnestic to events but bystanders report 
bicyclist struck by car.  Brought from scene to ___ ED.  CT 
head shows left convexity contusions. Patient endorses HA, right 
knee pain, left arm and hand pain. Also with open left radial 
and ulnar fractures. Patient endorses numbness in the left arm. 
Oriented to person, place "hospital" only, not to date. 
Orthopedics and Neurosurgery was consulted. 
 
Past Medical History:
none
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admission Physical Exam 
Gen: WD/WN pain left arm
HEENT: abrasions over right face and nose 
CV: HRR normal S1/S2
Abd: Soft NT/ND
Right lower extremity:
- small superficial abrasions over knee. +knee effusion and knee
TTP with ROM
Left upper extremity:
- Small superficial abrasion over mid-forearm dorsally. Does not
probe deep
- deformity of L forearm 
Neuro:
Mental status: Awake and alert, falls asleep during exam but 
easily arousable
Orientation: Oriented to person, place "hospital" only, not to 
date
Language: Speech fluent  but has trouble with repetition.
Naming intact. No dysarthria or paraphasic errors.

Discharge Physical Exam:
VS: 98.9, 62, 113/54, 18, 99%ra
Gen: A&O x2-3, flat affect, calm, cooperative, answering 
questions appropriately
CV: HRR
Pulm: LS ctab
Abd: Soft NT/ND
GU: voiding
Extremities: LUE in splint, inability to extend left ___ and ___ 
MCPs. RLE in ace, ___ brace
 
Pertinent Results:
___ 05:10AM BLOOD WBC-6.1 RBC-3.06* Hgb-9.2* Hct-27.6* 
MCV-90 MCH-30.1 MCHC-33.3 RDW-12.4 RDWSD-40.7 Plt ___
___ 02:16AM BLOOD WBC-8.0# RBC-3.23* Hgb-9.7* Hct-29.4* 
MCV-91 MCH-30.0 MCHC-33.0 RDW-12.6 RDWSD-41.1 Plt ___
___ 01:40AM BLOOD WBC-4.9 RBC-3.29* Hgb-9.9* Hct-30.2* 
MCV-92 MCH-30.1 MCHC-32.8 RDW-12.7 RDWSD-42.2 Plt ___
___ 07:00PM BLOOD WBC-7.6 RBC-3.87* Hgb-11.7* Hct-35.1* 
MCV-91 MCH-30.2 MCHC-33.3 RDW-12.4 RDWSD-40.6 Plt ___
___ 05:10AM BLOOD Glucose-101* UreaN-7 Creat-0.6 Na-138 
K-3.4 Cl-105 HCO3-28 AnGap-8
___ 02:16AM BLOOD Glucose-152* UreaN-8 Creat-0.7 Na-141 
K-3.8 Cl-109* HCO3-25 AnGap-11
___ 01:40AM BLOOD Glucose-98 UreaN-7 Creat-0.6 Na-144 K-3.4 
Cl-112* HCO3-24 AnGap-11
___ 02:25AM BLOOD Glucose-108* UreaN-10 Creat-0.7 Na-142 
K-3.3 Cl-112* HCO3-22 AnGap-11
___ 02:25AM BLOOD ALT-52* AST-74*
___ 05:10AM BLOOD Calcium-8.5 Phos-2.4* Mg-2.0
___ 02:16AM BLOOD Calcium-8.3* Phos-2.5* Mg-1.7
___ 01:40AM BLOOD Calcium-8.4 Phos-3.4 Mg-2.2
___ 07:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Radiology: 
___: CT Head CT head: two small left frontal convexity 
contusions
___: XR of L forearm demonstrates midshaft both bone forearm
fracture
___: XR of R knee Medial tibial plateau fracture, medial 
femoral
condylar fracture, small like both hemarthrosis. 
___: CT Head 1. New 6 mm hyperdensity left temporal hemorrhagic
contusion. 2. Stable left frontal intraparenchymal hemorrhage
measuring 7 and 2 mm, as above. 
___: CT Spine No acute fracture. Degenerative disease most
pronounced at C5-6. Minimal retrolisthesis of C5 on C6 is likely
degenerative though clinical correlation advised.
___: CT Torso Possible minimally displaced fracture of the 
right sixth rib.
___: CT Head:   
1. No significant interval change in the overall appearance of 3 
small 
hemorrhagic contusions in the left frontal and temporal lobes 
with minimal 
surrounding edema. 2. No new hemorrhage or edema. 

 
Brief Hospital Course:
___ year old male presenting to ___ as bicycl___ struck by car. 
 Patient amnesic to the events. Head CT revealed 2 isolated foci 
of parenchymal hemorrhage in the left high frontal lobe, for 
which Neurosurgery was consulted. They recommended starting 
Keppra x7days and hourly neuro exams. Imaging also revealed 
displaced and angulated midshaft radial and ulnar fractures, 
right medial tibial plateau fracture, and right medial femoral 
condylar fracture. There was also a question of a left 6th rib 
fracture. Orthopedics was consulted, who reduced and splinted 
left forearm in ED. The patient was hemodynamically stable but 
noted to be confused and disoriented. He was admitted to the 
Trauma / ACS service in the TICU for q1h neuro exams and close 
monitoring. Due to worsening mental status, a repeat head CT was 
obtained on HD2 which showed a new hyperdensity in the left 
temporal lobe, suggestive of a new focus 
of cortical hemorrhage versus hemorrhagic conversion of a 
contusion.

The patient was taken to the operating room with the Orthopedic 
team on HD3 and underwent open reduction and internal fixation 
of proximal shaft radius and ulna fractures of the left upper 
extremity which went well without complication (reader referred 
to the Operative Note for details). For the right lower 
extremity tibia plateau fracture, Ortho recommended nonoperative 
management with ___ brace and partial weight bearing as 
tolerated. 

The patient was transferred to the floor in hemodynamically 
stable condition. He was alert and oriented to person and place 
but not of date. On HD5 the patient was complaining of new 
double vision. A repeat head CT scan was stable. The double 
vision improved. The patient worked with Physical Therapy and 
Occupational Therapy, who recommended rehab once medically 
cleared. 

Pain was well controlled. Patient tolerated a regular diet with 
good tolerability. The patient voided without problem. During 
this hospitalization, the patient ambulated with brace and 
plateau walker, was adherent with respiratory toilet and 
incentive spirometry, and actively participated in the plan of 
care. The patient received subcutaneous heparin and venodyne 
boots were used during this stay.

On HD7, Hand Surgery was consulted for inability to extend left 
___ and ___ MCPs, likely due to partial EDC tendon injury. Hand 
recommended  Volar resting splint intrinsic plus, and outpatient 
follow-up in the Hand clinic.

At the time of discharge, the patient was doing well, mental 
status was improving, afebrile with stable vital signs. The 
patient was tolerating a regular diet, ambulating with 
assistance, voiding without assistance, and pain was well 
controlled.  The patient was discharged to rehab. The patient 
received discharge teaching and follow-up instructions with 
understanding verbalized and agreement with the discharge plan.

 
Medications on Admission:
none
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Docusate Sodium 100 mg PO BID 
3. Heparin 5000 UNIT SC BID 
4. LeVETiracetam 1000 mg PO BID 
Last dose ___. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
6. Polyethylene Glycol 17 g PO DAILY constipation 
7. Senna 8.6 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Polytrauma :
Left frontal intraparenchymal hemorrhage 
Left temporal lobe contusion
Midshaft left radial and ulnar fractures
Medial right tibial plateau fracture 
Medial right femoral condylar fracture
Partial EDC tendon injury

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to ___ after being struck by a vehicle while 
riding your bike. You suffered multiple injuries, including an 
intracranial head bleed, a left forearm fracture, and a right 
tibial plateau fracture. Neurosurgery was consulted and your 
neurological exam was monitored closely. Your head CT scans have 
been stable, the bleeding has not gotten worse. You were started 
on a medication, keppra, to prevent seizures. Orthopedics was 
consulted for the bone fractures. The right leg will heal 
non-operatively. You were taken to the operating room for repair 
of the left forearm bone fractures. You tolerated this procedure 
well. 

Physical Therapy and Occupational Therapy have been working with 
you and recommend you be discharged to rehab once medically 
stable. You are now tolerating a regular diet, your pain is well 
controlled, and your vital signs are stable. You are suffering 
from post-concussive symptoms such as disorientation and 
amnesia. You should follow-up with Cognitive Neurology for 
post-concussive therapy. 

Please note the following discharge instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.

Brain Injury Instructions:
Return to the Emergency Department or see your own doctor right 
away if any problems develop, including the following:
 Persistent nausea or vomiting.
 Increasing confusion, drowsiness or any change in alertness.
 Loss of memory.
 Dizziness or fainting.
 Trouble walking or staggering.
 Worsening of headache or headache feels different.
 Trouble speaking or slurred speech.
 Convulsions or seizures. These are twitching or jerking 
movements of the eyes, arms, legs or body.
 A change in the size of one pupil (black part of your eye) as 
compared to the other eye.
 Weakness or numbness of an arm or leg.
 Stiff neck or fever.
 Blurry vision, double vision or other problems with your 
eyesight.
 Bleeding or clear liquid drainage from your ears or nose.
 Very sleepy (more than expected) or hard to wake up.
 Unusual sounds in the ear.
 Any new or increased symptoms
 
Followup Instructions:
___